US07053060B2
To a solution of methyl 4-[(2-benzyloxyphenyl)hydroxymethyl]benzoate (2.6 g) in ethanol (15 mL) was added 10% palladium-carbon powder (0.50 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 18 hours. An insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give methyl 4-(2-hydroxybenzyl)benzoate (1.7 g).

reactant | methyl 4-[(2-benzyloxyphenyl)hydroxymethyl]benzoate | 2.6 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(C1=CC=C(C(=O)OC)C=C1)O | C22H20O4
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.50 g | [C].[Pd]
product | methyl 4-(2-hydroxybenzyl)benzoate | 1.7 g | OC1=C(CC2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C15H14O3
